Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.59173298495
[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.90501091475
[O:1]=[C:2]([H:3])[C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]1([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],0.272088439249
[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-1.86170982402
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.91320225586
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([O:6])([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9],-2.71993976833
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],-3.16807569715
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.4216339855
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.51912975509
[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.99961424352
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],5.447380131880001
[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],1.8297266208200005
[H:5].[O:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.79448821508
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.85929847276
[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.542468652659999
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14],1.99005135757
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.78664887648
[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-3.20087085102
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[O:1][C:2][C:3],3.78178317808
[H:1][O:2][C:3]1[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],1.42393933842
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.84723453825
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8],3.87905529701
[C:1]#[C:2][O:3][C:4][H:5]>>[C:1]#[C:2][O:3][C:4].[H:5],2.20602730884
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.34233054
[C:10]([H:11])([H:12])[H:13].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.57185544872
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[H:1][C:2],8.492393181499999
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.01473335695
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.94078346531
